datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH:10]1=[CH:11][CH:12]=[C:13]([B-:64]([F:65])([F:75])[F:85])[O:14]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:11]=[CH:12][C:13]([B-:64]([F:65])([F:75])[F:85])=[O+:14]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.CCCC[Ge:11](CCCC)(CCCC)[H:10]>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[H:10])(=[O:33])=[O:34])C=C1.CCCC[Ge+:11](CCCC)CCCC 10,11=10,20;20,21=21"
C1CC[NH:10]C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([NH+:10]2CCCC2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10=20
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N-:10][CH:61]=[N:62]2>>CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]([CH:20]([C:21]1=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[CH:61]=[N:62]2 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20;12=11,12"
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1.C[Si](C)(C)[C:63]1=[CH:62][CH:11]=[CH:10][S:64]1>>C[Si](C)(C)[C:63]1=[CH:62][CH+:11][CH:10]([CH:20]([O:21]C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[S:64]1 10,11=10,20;20,21=21"
"CC[N:10](CC)CC.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[N+:10](CC)(CC)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCC[CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42](C1=CC=CC=C1)[C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)([H:10])C5C1C2C3C54>>C[C:21]([CH:20]([H:10])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25].[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.[NH2:10][OH:61]>>C1=CC=C([C:22](=[CH:21][CH:20]([NH2+:10][OH:61])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21].[H][C-:10]([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC>>[H][C:10]([C:20]1([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]1Cl)([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23"
